US04931444
A mixture of 15 parts of 4,5-dihydro-5-methoxy-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-thiazolamine, 5.8 parts of bromoethane, 3 parts of sodium hydroxide pellets and 207 parts of N,N-dimethylformamide was stirred for 16 hours at room temperature. The reaction mixture was diluted with water. The precipitated product was filtered off and purified by column chromatography over silica gel using a mixture of trichloromethane, ethyl acetate, hexane and methanol (49::30:20:1 by volume) as eluent. The second fraction was collected and the eluent was evaporated. The residue was crystallized from 4-methyl-2-pentanone. The product was filtered off and dried, yielding 7.3 parts (44.4%) of N-ethyl-4,5-dihydro-5-methoxy-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-thiazolamine hemihydrate; mp. 131.5° C. (int. 6).

reactant | 4,5-dihydro-5-methoxy-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-thiazolamine | COC1CN=C(S1)NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC | C21H26N4O2S
reactant | bromoethane | BrCC | C2H5Br
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-ethyl-4,5-dihydro-5-methoxy-N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-thiazolamine hemihydrate | 44.4% | O.C(C)N(C=1SC(CN1)OC)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC.C(C)N(C=1SC(CN1)OC)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC | InChI=1S/2C23H30N4O2S.H2O/c2*1-4-27(23-24-17-22(29-3)30-23)20-7-5-18(6-8-20)25-13-15-26(16-14-25)19-9-11-21(28-2)12-10-19;/h2*5-12,22H,4,13-17H2,1-3H3;1H2
